US05026874
2-Mercaptomethyl-2-n-propylpropan-1,3-dithiol (4.0 g.) and triethyl orthoformate (3.6 g.) were refluxed, with stirring, in dry benzene (120 ml.) containing Amberlyst "15" (1.0 g.). The mixture was cooled and filtered. The filtrates were evaporated in vacuo and the residue was purified by chromatography on alumina eluting with 1:10, dichloromethane: hexane saturated with ammonia. 4-n-Propyl-2,6,7-trithiabicyclo[2.2.2]octane was obtained as a colourless solid (3.1 g., m.pt. 139°).

reactant | 2-Mercaptomethyl-2-n-propylpropan-1,3-dithiol | 4.0 g | SCC(CS)(CS)CCC | C7H16S3
reactant | triethyl orthoformate | 3.6 g | C(OCC)(OCC)OCC | C7H16O3
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
product | 4-n-Propyl-2,6,7-trithiabicyclo[2.2.2]octane | C(CC)C12CSC(SC1)SC2 | C8H14S3
